US09421205B2
(e) tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I46)
A solution of methyl 2-(2-ethynylphenyl)acetate (I4) (0.069 g, 0.394 mmol) in dimethylformamide (2 mL) and triethylamine (0.183 mL, 1.31 mmol) was added to a mixture of tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I45) (0.150 g, 0.328 mmol), Pd(PPh3)2Cl2 (0.023 g, 0.033 mmol), Cu(I)I (0.0090 g, 0.049 mmol) and triphenylphosphine (0.013 g, 0.049 mmol) in dimethylformamide (2 mL). The reaction mixture was heated under microwave irradiation at 120° C. for 15 minutes. The reaction was cooled and the mixture diluted with EtOAc and passed through a plug of celite and washed through with ethyl acetate (50 mL). Water (50 mL) was added and the layers separated. The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic extracts were washed with water (50 mL) and brine (50 mL) and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a dark brown residue. The residue was purified by column chromatography on silica gel (0-20% EtOAc in cyclohexane) to yield the title compound (I46) (0.157 g, 80%) as a brown viscous oil.

reactant | methyl 2-(2-ethynylphenyl)acetate | 0.394 mmol, 0.069 g | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
reactant | triethylamine | 1.31 mmol, 0.183 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.328 mmol, 0.150 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | triphenylphosphine | 0.049 mmol, 0.013 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.033 mmol, 0.023 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C32H33F3N4O4
